US04544755
2-Aminobenzylcyanide
100 g of 2-cyanomethyl-N-phenylphthalimide were introduced, a little at a time, into 100 g of monoethanolamine at 80° C. After 10 minutes, the mixture was cooled to 20° C., and 400 g of ice water were added dropwise. The precipitated product was filtered off under suction and washed neutral with ice water.

reactant | 2-cyanomethyl-N-phenylphthalimide | 100 g | C(#N)CC12C(C(=O)N(C1=O)C1=CC=CC=C1)C=CC=C2 | C16H12N2O2
reactant | monoethanolamine | 100 g | C(O)CN | C2H7NO
product | 2-Aminobenzylcyanide | NC1=C(CC#N)C=CC=C1 | C8H8N2
